US04534979
2,5-Dimethyl-7-(4-Methoxy-2,3,6-Trimethylphenyl)-Hepta-2,4,6-Trienoic Acid
In a manner similar to Example 6, alkaline hydrolysis of ethyl 2,5-dimethyl-7-(4-methoxy-2,3,6-trimethylphenyl)-hepta-2,4,6-trienoate afforded, after trituration from ether, the corresponding acid as yellow powder, m.p. 188°-190° C.

reactant | ethyl 2,5-dimethyl-7-(4-methoxy-2,3,6-trimethylphenyl)-hepta-2,4,6-trienoate | CC(C(=O)OCC)=CC=C(C=CC1=C(C(=C(C=C1C)OC)C)C)C | C21H28O3
solvent | ether | CCOCC | C4H10O
product | 2,5-Dimethyl-7-(4-Methoxy-2,3,6-Trimethylphenyl)-Hepta-2,4,6-Trienoic Acid | CC(C(=O)O)=CC=C(C=CC1=C(C(=C(C=C1C)OC)C)C)C | C19H24O3
